Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right sensorimotor weakness
 
Major Surgical or Invasive Procedure:
s/p tpa 
 
History of Present Illness:
The patient is a ___ yo gentleman, pmh of HTN, HLD, DM2,
presents from OSH after receiving tpa for NIHSS7 with R
sensorimotor deficit.
He was in his USOH while he was at dinner at his friend's home.
He suddenly felt tingling in the fingers of his right hand,
leading up to right arm. He states he suddenly felt weak on the
right side. He also felt warm and felt that his vision was
blurry. He does not think his friends mentioned anything about
facial asymmetry, but he looked unwell. He does not recall how 
he
got from his friends home to the hospital - he is not sure if he
took an EMS, or if he or his friends drove. He is not sure if he
passed out of loss consciousness. At the OSH, a tele stroke was
called and he scored a NIHSS 7 for LOC questions (2), Right Arm
Drift (2), Right leg drift (1), mild unitaleral loss (1), and
slurred speech (1).  He Received Tpa at 9: 35 pm for ___ 7 and
was transferred to ___. At ___, he states that he
overall feels tired and still has some weakness on the right
side. He feels better overall (as blurry vision has improved). 

On neurologic review of systems, the patient endorses headache,
tinnitus, lightheadedness, and warmth at dinner which has
resolved. Denies difficulty with producing or comprehending
speech. Denies loss of vision, diplopia, vertigo, hearing
difficulty, dysarthria, or dysphagia. Denies loss of sensation.
Denies bowel or bladder incontinence or retention. Denies
difficulty with gait.

On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss. Endorses palpitations
and sob at dinner, that resolved now. Denies dyspnea, or cough.
Endorses nausea and belly pain at dinner, now resolved.  Denies
vomiting, diarrhea, constipation, or abdominal pain.  No recent
change in bowel or bladder habits.  Denies dysuria or hematuria.
Denies myalgias, arthralgias, or rash.

 
Past Medical History:
HTN
DM2- Diet controlled
Had "24 plastic surgery operations" as a child after sleep
walking into an electric wire. 
s/p Hiatal hernia repair 
 
Social History:
___
Family History:
"Every disease known to man". Endorses strokes and heart 
attacks. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals:P74 BP 147/ 71 RR 18 SaO2 98% RA 
General:  NAD, Morbidly obese 
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental Status - Awake, alert, oriented x 3. Attention to
examiner easily maintained. Recalls a coherent history. Able to
recite ___ backwards. Speech is fluent with full sentences,
intact repetition, and intact verbal comprehension. Naming
intact.  No paraphasias.  Normal prosody. No dysarthria. Verbal
registration and recall ___. No apraxia. No evidence of
hemineglect. No left-right confusion.

- Cranial Nerves - PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. RUE pronator drift. No tremor or
asterixis.
  Delt Bic Tri WrE  FE  IO IP Quad Ham TA Gastroc 
L  5    ___    4+  ___    5  5     5     
R  4+   5   4+  4+   4+  4  4+  5    4+ 4+    5    

- Sensory - Decreased sensation about 40% on RLE as compared to
LLE in LT, pp and cold. No deficits to light touch, pin, or
proprioception UE bilaterally.  No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  1  1    1    1   0
R  1  1    1    1   0
Plantar response flexor on left, mute on right.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - Deferred 
===============================================================

DISCHARGE PHYSICAL EXAM:
AAO x3. Speech fluent. Face symmetric. Right sided mild IO, IP, 
TA weakness. Otherwise full. SILT bilaterally. 
 
Pertinent Results:
ADMISSION LABS:
___ 12:50AM BLOOD WBC-9.4 RBC-4.50* Hgb-13.2* Hct-39.0* 
MCV-87 MCH-29.3 MCHC-33.8 RDW-14.4 RDWSD-45.8 Plt ___
___ 12:50AM BLOOD Neuts-69.2 ___ Monos-7.3 Eos-1.6 
Baso-1.1* Im ___ AbsNeut-6.52* AbsLymp-1.94 AbsMono-0.69 
AbsEos-0.15 AbsBaso-0.10*
___ 12:50AM BLOOD ___ PTT-29.6 ___
___ 12:50AM BLOOD Glucose-97 UreaN-11 Creat-0.9 Na-139 
K-4.0 Cl-103 HCO3-23 AnGap-17
___ 12:50AM BLOOD ALT-25 AST-32 AlkPhos-89 TotBili-0.4
___ 12:50AM BLOOD Albumin-4.3 Calcium-8.8 Phos-3.9 Mg-1.9
___ 02:16AM BLOOD %HbA1c-5.7 eAG-117
___ 02:16AM BLOOD Triglyc-113 HDL-36 CHOL/HD-3.7 LDLcalc-73
___ 12:50AM BLOOD TSH-2.0
___ 02:16AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IMAGING:
CTA HEAD AND NECK ___:
1. Normal head and neck CTA . 
2. No acute intracranial abnormality. 

CXR ___:
Mild cardiomegaly without pulmonary edema. 
  
Large hiatal hernia. 

CT HEAD ___:
1. Normal study. 

DISCHARGE LABS:
___ 02:16AM BLOOD WBC-6.8 RBC-4.47* Hgb-13.1* Hct-39.3* 
MCV-88 MCH-29.3 MCHC-33.3 RDW-14.5 RDWSD-46.5* Plt ___
___ 02:16AM BLOOD Glucose-84 UreaN-9 Creat-0.8 Na-136 K-4.0 
Cl-102 HCO3-25 AnGap-13
___ 02:16AM BLOOD Calcium-8.8 Phos-3.6 Mg-2.0 Cholest-132
 
Brief Hospital Course:
Mr. ___ is a ___ yo man with a past medical history of HTN, 
diet controlled DM who presented with right sided sensorimotor 
changes who received tPA at an OSH after concern for L MCA 
syndrome. His exam was initially concerning for RUE and RLE 
weakness in an upper motor neuron pattern, as well as decreased 
light touch, pin prick and cold in the right lower extremity. He 
was admitted to the neuro-ICU for routine post-tPA monitoring 
with repeat head CT stable 24 hours later. He also had vessel 
imaging which showed patent vasculature. Stroke risk factors 
were checked, including: A1C 5.7 and LDL 73. Patient declined 
MRI due to claustrophobia, but was amenable to outpatient MRI in 
an open machine. 

During his hospital stay, his exam fluctuated with some 
decreased effort and variable sensory exam. Additionally, he 
does report a history of prior "ischemic stroke" in ___ 
with identical symptoms of right sided weakness and sensory 
changes and was started on ASA and Atorvastatin at that time. 
The MRI from that time was reviewed which showed scattered white 
matter changes but no evidence of ADC correlate. Additionally, 
his story changed to include a marching progression of numbness 
at the right fingertips which lasted ___ minutes followed by 
headache, which could be classic for a complex migraine causing 
his symptoms. Given the unclear nature of his symptoms, changing 
story and exam, the etiology of his symptoms was thought most 
likely a stroke in the thalmocapsular region secondary to HTN, 
however, patient was kept on Aspirin and Atorvastatin. He also 
underwent TTE which was negative for thrombus or PFO. He will 
have an outpatient open MRI for further evaluation. 

Additionally, he was monitored on telemetry which showed sinus 
rhythm with frequent PVCs. Given concern for underlying atrial 
fibrillation, he was discharged with ___ of Hearts monitor. 
He was evaluated by ___ who recommended outpatient treatment.  


Transitional issues:
-F/u ___ data
-f/u outpt MRI
-code status clarified: FULL code, would not want prolonged 
intubation or resuscitation if no hope of recovery
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. Pantoprazole 40 mg PO Q12H 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Pantoprazole 40 mg PO Q12H 
5. Outpatient Occupational Therapy
Evaluate and treat, right sided weakness 
6. Outpatient Physical Therapy
Evaluate and treat, right sided weakness

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Right hemiparesis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

You were hospitalized due to symptoms of right sided weakness 
and sensory changes thought to be resulting from an ACUTE 
ISCHEMIC STROKE, a condition where a blood vessel providing 
oxygen and nutrients to the brain is blocked by a clot. The 
brain is the part of your body that controls and directs all the 
other parts of your body, so damage to the brain from being 
deprived of its blood supply can result in a variety of 
symptoms.  
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
-obesity  
-high blood pressure
-diabetes
 
We are not changing your medications. 
 
Please take your other medications as prescribed.  
 
Please follow-up with Neurology and your primary care physician. 
Please bring the CD copy of your new MRI to your appointment 
with the neurologist.  
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  

In order to assess for an underlying heart problem causing your 
symptoms, your will receive a heart monitor which will look for 
atrial fibrillation. 

You will also have outpatient occupational and physical therapy 
to help with your recovery. 
 
Sincerely,
Your ___ Neurology Team 
 
Followup Instructions:
___